US08685969B2
8. 7-Acetyl-4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide
A mixture of 7-bromo-4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide (0.198 g, 0.378 mmol), tributyl(1-ethoxyvinyl)stannane (0.299 mL, 0.906 mmol), bis(triphenylphosphine)palladium(II) chloride (0.037 g, 0.053 mmol), triethylamine (0.068 mL, 0.491 mmol) in 1,4-dioxane (Volume: 15 mL) was heated at 95° C. for 24 hr. No reaction occurred. The starting bromo compound remained unchanged. Upon cooling to room temperature, some yellow precipitate formed. The clear solution was transferred to a pressure tube. Additional tributyl(1-ethoxyvinyl)stannane (0.6 mL, 1.82 mmol), bis(triphenylphosphine)palladium(II) chloride (0.080 g, 0.114 mmol), and triethylamine (0.11 mL, 0.789 mmol) were added. The mixture was heated at 125° C. for 16 hr. Upon cooling to room temperature, the reaction mixture was filtered through CELITE®, and the filtrate was concentrated under vacuum. The residue was diluted with THF (30 mL) and stirred with 1 N HCl solution (10 mL) at room temperature for 2 hr. The solution was concentrated under vacuum, basified with 1 N NaOH solution, and extracted with ethyl acetate (3×40 mL). The combined extract was dried over anhydrous MgSO4. The desired product (90 mg, 0.185 mmol, 48.9% yield) was isolated as a yellow solid by ISCO (24 g silica gel, solid loading, 60-90% ethyl acetate/hexane).

reactant | 7-bromo-4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.378 mmol, 0.198 g | BrC1=CC=C2C3=C(NC2=C1)C(=NC=C3C3=C(C(=CC=C3)N3C=NC1=CC=CC=C1C3=O)C)C(=O)N | C27H18BrN5O2
reactant | tributyl(1-ethoxyvinyl)stannane | 0.906 mmol, 0.299 mL | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | triethylamine | 0.491 mmol, 0.068 mL | C(C)N(CC)CC | C6H15N
reactant | tributyl(1-ethoxyvinyl)stannane | 1.82 mmol, 0.6 mL | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | triethylamine | 0.789 mmol, 0.11 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.053 mmol, 0.037 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.114 mmol, 0.080 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 7-Acetyl-4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.185 mmol, 90 mg, 48.9% yield | C(C)(=O)C1=CC=C2C3=C(NC2=C1)C(=NC=C3C3=C(C(=CC=C3)N3C=NC1=CC=CC=C1C3=O)C)C(=O)N | C29H21N5O3
